US04151298
Preparation of N-(2,2-dicyanovinyl)-2-chloro-5-trifluoromethylaniline
19.6 Parts of 2-chloro-5-trifluoromethyl-aniline and 12.2 parts of ethoxymethylenemalononitrile are dissolved in 125 parts of ethanol and the mixture is refluxed for 48 hours. After cooling, the precipitated product is collected by filtration and washed with ethanol. Recrystallisation from ethanol affords the above product with a melting point of 166°-169° C. and in a 70% yield.

reactant | 2-chloro-5-trifluoromethyl-aniline | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
reactant | ethoxymethylenemalononitrile | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | C(C)O | C2H6O
product | N-(2,2-dicyanovinyl)-2-chloro-5-trifluoromethylaniline | 70% yield | C(#N)C(=CNC1=C(C=CC(=C1)C(F)(F)F)Cl)C#N | C11H5ClF3N3
